US08440698B2
To the suspension of potassium carbonate (2.16 g, 15.7 mmol) in THF at room temperature was added imidazole (4.27 g, 62.8 mmol). The mixture was stirred at room temperature for 10 minutes then 4-(bromomethyl)-2-methylbenzonitrile (CAS 1001055-64-6) (6.6 g, 31.4 mmol) was added and refluxed for 24 hours. The mixture was then cooled to room temperature. Potassium carbonate was filtered off. The filtrate was concentrated and residue was redissolved in dichloromethane. The dichloromethane phase was washed with water (three times) and then HCl (three times). To the combined HCl phase was added sodium carbonate (solid) and extracted with ethyl acetate. Ethyl acetate phase was washed with water and brine, dried over sodium sulfate and concentrated. Column chromatography (10% methanol/ethyl acetate) gave 4-((1H-imidazol-1-yl)methyl)-2-methylbenzonitrile (3.59 g, 58%) as a white solid.

reactant | potassium carbonate | 15.7 mmol, 2.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 62.8 mmol, 4.27 g | N1C=NC=C1 | C3H4N2
reactant | 4-(bromomethyl)-2-methylbenzonitrile | 31.4 mmol, 6.6 g | BrCC1=CC(=C(C#N)C=C1)C | C9H8BrN
solvent | THF | C1CCOC1 | C4H8O
product | 4-((1H-imidazol-1-yl)methyl)-2-methylbenzonitrile | 3.59 g, 58% | N1(C=NC=C1)CC1=CC(=C(C#N)C=C1)C | C12H11N3
